US04236002
(-)-α-Amino-4-hydroxy-3-(hydroxymethyl)benzeneacetic acid
To a solution of (-)-α-amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid hydrochloride in water is added saturated aqueous sodium bicarbonate until a pH of 7 is reached. The solution is stirred overnight and is then lyophilized to give a quantitative yield of the title compound, combined with 2 equivalents of sodium chloride.

reactant | (-)-α-amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid hydrochloride | Cl.NC(C(=O)O)C1=CC(=C(C=C1)O)CCl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | (-)-α-Amino-4-hydroxy-3-(hydroxymethyl)benzeneacetic acid | quantitative yield | NC(C(=O)O)C1=CC(=C(C=C1)O)CO | C9H11NO4
